US03968011
The method may be carried out in solution by first mixing a sample of a female fluid, such as 0.1 ml of saliva, with 0.1 ml of 0.1 M p-nitrophenyl-N-acetyl-β-d-glucosaminide dissolved in 0.1 M sodium citrate-citric acid buffer and 0.2 ml of 0.1 M sodium citrate buffer, pH 4.5. Then, after shaking until the reagents are mixed, the reagents are permitted to incubate for 30 minutes at room temperature, to allow the N-acetyl-β-glucosaminidase present in the saliva to hydrolytically act on the p-nitrophenyl-N-acetyl-β-d-glucosaminide to remove the p-nitrophenyl group therefrom and form p-nitrophenol. At the end of the incubation period, a second buffer consisting of 1.0 ml of 1.0 M sodium glycinate buffer, pH 10.3, is added to the reaction mixture to stop the hydrolytic activity and to develop the yellow color characteristic of p-nitrophenol at alkaline pH's. The absorbence of the reaction mixture is measured at 400 nm and compared to a standard absorbence curve prepared with solutions of known concentrations of p-nitrophenol at pH 10.3. In a similar manner other phenolic derivatives of N-acetyl-β-d-glucosamine may be used in the method. For instance 0.1 M 3,3-bis(p-hydroxyphenyl)phthalid-N-acetyl-β-d-glucosaminide may be substituted for p-nitrophenyl-N-acetyl-β-d-glucosaminide in the above described example. In that instance phenophthalein is the reaction product that is formed.

reactant | p-nitrophenyl-N-acetyl-β-d-glucosaminide | 0.1 M, 0.1 ml | CC(=O)NC1C(C(C(OC1OC2=CC=C(C=C2)[N+](=O)[O-])CO)O)O | C14H18N2O8
solvent | sodium citrate citric acid | 0.1 M | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+].C(CC(O)(C(=O)O)CC(=O)O)(=O)O
solvent | sodium citrate | 0.1 M, 0.2 ml | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
product | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
